US04018842
Hypochlorite treatment of the α-pinene raised the chloride level to about 100 ppm (as elemental chloride) based on pinene feed. Hydrogenation of this pinene was fast and yielded a good ratio (96.8/3.2). Reuse of the catalyst heel went quickly with a slightly reduced ratio, when used at either the 3% level or 1% level. Repoisoning (1/2% sodium hypochlorite-treated α-pinene) was achieved by mixing hypochlorite-treated feed with fresh α-pinene and yielded pinane with a 97.5/2.5 cis-:trans- ratio. A ratio of 98.1/1.9 was achieved in 30 hours' reaction at a lower temperature of about 30° C. using hypochlorite-treated feed.

reactant | sodium hypochlorite | Cl[O-].[Na+]
reactant | α-pinene | CC1=CCC2CC1C2(C)C | C10H16
reactant | hypochlorite | Cl[O-]
product | pinane | C12C(CCC(C1(C)C)C2)C | C10H18
